US07772360B2
Synthesis of 4-t-butyl-2,6-dimethylbromobenzene
Under an inert atmosphere, 225 g of acetic acid was put into a 500 ml three-necked flask, and 24.3 g of 5-t-butyl-m-xylene was added. Then, after adding 31.2 g of bromine, it was reacted at 15-20° C. for 3 hours. The reaction liquid was added to 500 ml of water, and the deposited precipitate was filtrated. It was washed with 250 ml of water twice and 34.2 g of white solid was obtained.

reactant | acetic acid | 225 g | C(C)(=O)O | C2H4O2
reactant | 5-t-butyl-m-xylene | 24.3 g | C(C)(C)(C)C=1C=C(C=C(C1)C)C | C12H18
reactant | bromine | 31.2 g | BrBr | Br2
solvent | water | 500 ml | O | H2O
product | 4-t-butyl-2,6-dimethylbromobenzene | 34.2 g | C(C)(C)(C)C1=CC(=C(C(=C1)C)Br)C | C12H17Br
